US08293909B2
To a degassed mixture containing 4-chloro-3-nitropyridine (3.0 g, 18.9 mmol), 3-boronobenzoic acid (3.7 g, 22.7 mmol), potassium carbonate (5.2 g, 37.8 mmol) and dioxane (189 mL) was added tetrakis(tiphenylphosphine)palladium(0) (0.30 g, 0.28 mmol) in one portion under a nitrogen atmosphere. The mixture was heated with fast stirring at 100° C. for 15 h, cooled to room temperature, filtered and concentrated to afford 3-(3-nitropyridin-4-yl)benzoic acid as a tan residue which was used without further purification. LCMS: retention time: 1.375 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters-Sunfire, 5 u, C18, 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 245 (MH+).

reactant | 4-chloro-3-nitropyridine | 18.9 mmol, 3.0 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-boronobenzoic acid | 22.7 mmol, 3.7 g | B(O)(O)C=1C=C(C(=O)O)C=CC1 | C7H7BO4
reactant | potassium carbonate | 37.8 mmol, 5.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 189 mL | O1CCOCC1 | C4H8O2
product | 3-(3-nitropyridin-4-yl)benzoic acid | [N+](=O)([O-])C=1C=NC=CC1C=1C=C(C(=O)O)C=CC1 | C12H8N2O4
